US05519034
1-[1-(2-Chlorophenyl)cyclobutyl]-6-fluoro-7-hydroxy-2methyl-1,2,3,4-tetrahydroisoquinoline (8.0 g liberated from the salt prepared as described in Example 24) was resolved by chiral preparative high performance liquid chromatography on a Chiralcel OD column eluted with an 80:20 mixture of hexane and ethanol. The residue formed by the removal of the solvent from fraction 1 was dissolved in propan-2-ol and treated with 48% aqueous hydrobromic acid to yield (+)-1-[1-(2-chlorophenyl)cyclobutyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4 -tetrahydroisoquinoline hydrobromide which had a specific optical rotation αD of +9.64° , m.p. 242°-245° C. (dec). Yield 3.63 g.

reactant | 1-[1-(2-Chlorophenyl)cyclobutyl]-6-fluoro-7-hydroxy-2methyl-1,2,3,4-tetrahydroisoquinoline | ClC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)O)F)C | C20H21ClFNO
reactant | hydrobromic acid | Br | BrH
solvent | propan-2-ol | CC(C)O | C3H8O
product | (+)-1-[1-(2-chlorophenyl)cyclobutyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4 -tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)O)F)C | InChI=1S/C20H21ClFNO.BrH/c1-23-10-7-13-11-17(22)18(24)12-14(13)19(23)20(8-4-9-20)15-5-2-3-6-16(15)21;/h2-3,5-6,11-12,19,24H,4,7-10H2,1H3;1H
